US07615557B2
1-(2-Chlor-4-trifluoromethylphenyl)-piperidine-4-carboxylic acid (0.36 g, 1.16 mmol), (7S)-7-hydroxy-5,6,7,8-tetahydronaphthaleneamine (0.17 g, 1.05 mmol), 1-hydroxy-1H-benzotriazole (0.17 g, 126 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.26 g, 1.37 mmol) were combined in 10 ml of N,N-dimethylformamide under an argon atmosphere and stirred at room temperature overnight Water was added and the mixture was extracted with ethyl acetate three times. The combined organic phases were dried over magnesium sulfate, evaporated under reduced pressure, and the residue was separated over silica gel in ethyl acetate. Additional purification was achieved by preparative RP-HPLC using a water/acetonitrile gradient, yielding 1-[2-chloro-4-(trifluoromethyl)phenyl]-N-[(7S)-7-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl]piperidine-4-carboxamide (0.132 g, 28% yield).

reactant | 1-(2-Chlor-4-trifluoromethylphenyl)-piperidine-4-carboxylic acid | 1.16 mmol, 0.36 g | ClC1=C(C=CC(=C1)C(F)(F)F)N1CCC(CC1)C(=O)O | C13H13ClF3NO2
reactant | 1-hydroxy-1H-benzotriazole | 126 mmol, 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.37 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[2-chloro-4-(trifluoromethyl)phenyl]-N-[(7S)-7-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl]piperidine-4-carboxamide | 0.132 g, 28% yield | ClC1=C(C=CC(=C1)C(F)(F)F)N1CCC(CC1)C(=O)NC1=CC=CC=2CC[C@@H](CC12)O | C23H24ClF3N2O2
